US08802659B2
1-(1-(6-((trans)-4-tert-butylcyclohexyloxy)quinolin-2-yl)ethyl)azetidine-3-carboxylic acid
A solution of 1-{1-[6-(4-tert-Butyl-cyclohexyloxy)-quinolin-2-yl]-ethyl}-azetidine-3-carboxylic acid methyl ester (57.2 mg, 0.135 mmol) and Lithium hydroxide (20.9 mg, 0.874 mmol) in Tetrahydrofuran (2 mL, 20 mmol) and Water (0.5 mL, 30 mmol) was stirred at r.t. overnight. LCMS showed a single desired product peak RT 1.60 min M+1 at m/z 413.30, 100%. The solvent was concentrated and neutralized with citric acid and concentrated and Purified on HPLC to give product (26.2 mg, 37%). 1H NMR (300 MHz, MeOD) δ=8.25 (d, J=8.3 Hz, 1H), 7.94 (d, J=9.4 Hz, 1H), 7.42 (d, J=8.3 Hz, 1H), 7.37 (dd, J=2.6, 9.1 Hz, 1H), 7.28 (d, J=3.0 Hz, 1H), 4.54-4.43 (m, 2H), 4.42-4.18 (m, 3H), 3.78-3.59 (m, 1H), 2.25 (d, J=10.2 Hz, 2H), 1.89 (d, J=11.3 Hz, 2H), 1.57 (d, J=6.8 Hz, 3H), 1.51-0.99 (m, 6H), 0.89 (s, 9H).

reactant | 1-{1-[6-(4-tert-Butyl-cyclohexyloxy)-quinolin-2-yl]-ethyl}-azetidine-3-carboxylic acid methyl ester | 0.135 mmol, 57.2 mg | COC(=O)C1CN(C1)C(C)C1=NC2=CC=C(C=C2C=C1)OC1CCC(CC1)C(C)(C)C | C26H36N2O3
reactant | Lithium hydroxide | 0.874 mmol, 20.9 mg | [OH-].[Li+]
reactant | Tetrahydrofuran | 20 mmol, 2 mL | O1CCCC1 | C4H8O
reactant | Water | 30 mmol, 0.5 mL | O | H2O
product | 1-(1-(6-((trans)-4-tert-butylcyclohexyloxy)quinolin-2-yl)ethyl)azetidine-3-carboxylic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=NC2=CC1)C(C)N1CC(C1)C(=O)O | C25H34N2O3
